US05767131
A solution of 2-[(4-nitrophenyl)methylene]-3-oxohexanoic acid 2-cyanoethyl ester (9.80 g, 30 mmol) and benzyl 3-amino-2-hexenoate (7.24 g, 33 mmol) in 150 ml of EtOH was refluxed for 36 hrs. After the solvent was removed in vacuo, the residue was dissolved in 250 ml of CHCl3, washed with water (2×100 ml) and dried over Na2SO4. After filtration and evaporation of solvent, 5-benzyloxycarbonyl-3-(2-cyanoethoxy) carbonyl-1,4-dihydro-4-(4-nitrophenyl)-2,6-dipropylpyridine was obtained as a yellow oil (15.4 g, 97%).

reactant | 2-[(4-nitrophenyl)methylene]-3-oxohexanoic acid 2-cyanoethyl ester | 30 mmol, 9.80 g | C(#N)CCOC(C(C(CCC)=O)=CC1=CC=C(C=C1)[N+](=O)[O-])=O | C16H16N2O5
reactant | benzyl 3-amino-2-hexenoate | 33 mmol, 7.24 g | NC(=CC(=O)OCC1=CC=CC=C1)CCC | C13H17NO2
solvent | EtOH | 150 ml | CCO | C2H6O
product | 5-benzyloxycarbonyl-3-(2-cyanoethoxy) carbonyl-1,4-dihydro-4-(4-nitrophenyl)-2,6-dipropylpyridine | C(C1=CC=CC=C1)OC(=O)C=1C(C(=C(NC1CCC)CCC)C(=O)OCCC#N)C1=CC=C(C=C1)[N+](=O)[O-] | C29H31N3O6
